US06355653B1
To a suspension of 1.79 g (0.041 mol) sodiumhydride in 50 ml tetrahydrofurane and 50 ml dimethylformamide were added 13.9 g (0.041 mol) (cyanomethyl)triphenylphosphonium chloride. After sirring for 1 hour at room temperature a solution of 5.54 g (0.041 mol) 2-ethyl-4-pyridinecarboxaldehyde in 10 ml tetrahydrofuran were added and stirring was continued for 15 hours. Then 10 ml methanol were added, the solvents were evaporated and the residue chromatographed on aluminiumoxide with dichloromethane to yield 1.63 g (25%) (E)-3-(2-ethyl-pyridin-4-yl)-acrylonitrile as white waxy solid. MS m/e (%): 158 (M+, 100).

reactant | sodiumhydride | 0.041 mol, 1.79 g | [H-].[Na+]
reactant | (cyanomethyl)triphenylphosphonium chloride | 0.041 mol, 13.9 g | [Cl-].C(#N)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 2-ethyl-4-pyridinecarboxaldehyde | 0.041 mol, 5.54 g | C(C)C1=NC=CC(=C1)C=O | C8H9NO
reactant | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (E)-3-(2-ethyl-pyridin-4-yl)-acrylonitrile | 1.63 g, 25% | C(C)C1=NC=CC(=C1)/C=C/C#N | C10H10N2
